simulator lang=spectre
global 0

ahdl_include "../submission/ctle_equalizer.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=5n width=2.5n delay=1.2n rise=45p fall=45p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.7n 0.9 1.8n 0 76n 0]
Vb0 (boost_0 0) vsource type=pwl wave=[0 0.9 20n 0.9 20.1n 0 38n 0 38.1n 0.9 60n 0.9 60.1n 0 76n 0]
Vb1 (boost_1 0) vsource type=pwl wave=[0 0 24n 0 24.1n 0.9 50n 0.9 50.1n 0 76n 0]
Vb2 (boost_2 0) vsource type=pwl wave=[0 0 42n 0 42.1n 0.9 76n 0.9]
Vvin (vin 0) vsource type=pwl wave=[0 0.45 7n 0.45 7.1n 0.20 16n 0.20 16.1n 0.70 27n 0.70 27.1n 0.18 41n 0.18 41.1n 0.88 58n 0.88 58.1n 0.12 76n 0.12]

XDUT (vin clk rst boost_2 boost_1 boost_0 vout edge_metric sat_flag) ctle_equalizer

tran tran stop=76n maxstep=90p
save vin clk rst boost_2 boost_1 boost_0 vout edge_metric sat_flag
